US04435405
3-Phenylquinolin-2-thione (1.18 g.) was added to a suspension of sodium hydride (0.46 g. of a 50% w/w dispersion in mineral oil) in dimethylformamide (10 ml.) at 0°-5°. When all the hydrogen had evolved, 2-bromoisobutyric acid (0.88 g.) was added and the mixture was heated at 80° for 16 hr. The mixture was cooled to ambient temperature, poured into ice-water (50 ml.), acidified to pH 2 with concentrated hydrochloric acid, and extracted with ethyl acetate (3×25 ml.). The ethyl acetate extract was washed with brine (25 ml.) and then dried (MgSO4). The solvent was evaporated and the residual oil was chromatographed on silica (100 g., Merck type 7734), eluted with increasing concentrations of ethyl acetate in petroleum ether. The eluate obtained with 10% v/v ethyl acetate in petroleum ether was evaporated and the solid residue crystallised from cyclohexane to give 2-(1-carboxy-1-methylethylthio)-3-phenylquinoline, m.p. 144°-6°.

reactant | 3-Phenylquinolin-2-thione | 1.18 g | C1(=CC=CC=C1)C=1C(NC2=CC=CC=C2C1)=S | C15H11NS
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-bromoisobutyric acid | 0.88 g | BrC(C(=O)O)(C)C | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(1-carboxy-1-methylethylthio)-3-phenylquinoline | C(=O)(O)C(C)(SC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1)C | C19H17NO2S
